Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
alcohol withdrawal
 
Major Surgical or Invasive Procedure:
___ intubation
___ extubation
 
History of Present Illness:
___ h/o alcohol abuse w/ h/o withdraw seizures who presents with 
tremors, nausea, and tachycardia. Patient reports that he binge 
drank alochol for the past 10 days until 2 days ago when he 
abruptly stopped. He progressed from ___ pint of alcohol to a 
half gallon most recently on ___. Prior to to the last 10 
days, he was at ___ and denies any alcohol 
use. After waking up on ___ morning, he felt ill with 
multiple episodes of retching with dry heaves. He denies any 
vomiting, abdominal pain, diarrhea, or fevers/chills. He also 
felt shakey and weak. Due to feeling unwell, he reports that he 
was unable to take in any PO intake apart from water over the 
past two days. Over the time he was drinking heavily, it was 
unclear if he had any major falls or head strikes.
 
Initial vitals in the ED were: 97.8 ___   99%  RA
Labs were notable for:  
-WBC 10.3 with 85% PMNs, platelets 116
-ALT 42, AST 54, AP 147, Tbili 1.5, CK 882
-lactate 3.7
-serum tox negative

He was given 2L NS, ativan 1mg x6, mag 2g, folic acid, thiamine. 

An ECG was checked which showed sinus tachycardia at 123bpm.
  
Upon arrival to the ICU, he was hungry and was requesting to 
eat.

He previously reported that he has been using alcohol since age 
___ and that his use is mostly driven by anxiety. He noted that 
he had been sober in ___ when he was in jail but has been 
unable to maintain sobriety otherwise.
 
Past Medical History:
Alcohol Dependence
History of severe withdrawals with Delerium Tremens/Seizures
Bipolar Disorder
Anxiety Disorder
Peripheral Neuropathy
Hypertension
 

 
Social History:
___
Family History:
No family history of alcohol use, heart or lung problems.

 
Physical Exam:
Admission:
========================
VITAL SIGNS: 99.0 108 147/98 27 99% RA 
GENERAL: Alert, oriented, no acute distress, positive tremor
HEENT: Sclera anicteric, dry appearing mucous membranes, poor 
dentition, small excoriation on forehead  
LUNGS: Expiratory wheezes in b/l upper lung fields
CV: Tachycardic, regular rhythm, no murmurs/rubs/gallops  
ABDOMEN: soft, non-tender, non-distended, no rebound tenderness 
or guarding, no organomegaly  
EXTR: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CN II-XII grossly intact, strength ___ in b/l upper and 
lower extremities, mild tremor  
SKIN: warm, dry, healing excoriations over b/l knees

DISCHARGE
============
VS: 98.4 140/90 93 18 97%RA
Gen: sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally, no wheezing
Abd - soft nontender, normoactive bowel sounds
Ext - no edema; abrasion over R knee, no associated effusion; 
neg drawer signs, no joint laxity; he walked with me around the 
unit without limping or difficulty
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
Admission Labs:
===============
___ 11:50AM BLOOD WBC-10.3 RBC-4.08* Hgb-12.3* Hct-37.0* 
MCV-91 MCH-30.2 MCHC-33.3 RDW-17.6* Plt ___
___ 11:50AM BLOOD Neuts-85.1* Lymphs-8.9* Monos-5.2 Eos-0.3 
Baso-0.5
___ 11:50AM BLOOD ___ PTT-25.4 ___
___ 11:50AM BLOOD Glucose-70 UreaN-16 Creat-1.1 Na-141 
K-3.8 Cl-97 HCO3-11* AnGap-37*
___ 11:50AM BLOOD ALT-42* AST-54* CK(CPK)-882* AlkPhos-147* 
TotBili-1.5
___ 11:50AM BLOOD Albumin-4.6 Calcium-9.0 Phos-2.6* Mg-1.4*
___ 02:30AM BLOOD Osmolal-287
___ 11:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:07PM BLOOD Lactate-3.7*
___ 02:29AM BLOOD Lactate-2.6*

DISCHARGE
___ 05:31AM BLOOD WBC-5.7 RBC-3.48* Hgb-10.6* Hct-30.7* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-17.9* Plt ___
___ 06:05AM BLOOD Glucose-96 UreaN-8 Creat-0.6 Na-134 K-3.4 
Cl-99 HCO3-26 AnGap-12
___ 05:31AM BLOOD ALT-40 AST-67* AlkPhos-113 TotBili-0.5
 
Brief Hospital Course:
This is a ___ year old male with past medical history of alcohol 
abuse, continuous admitted for alcohol withdrawal following a 
binge, requiring intubation and ICU admission for significant 
agitation, subsequently extubated and initiated on phenobarb 
protocol, course complicated by self-resolving fever without 
focal findings, subsequently eloping before discharge

# Alcohol withdrawal: patient presented with tachycardia, 
hypertension, diaphoresis, and tremor consistent with acute 
alcohol withdrawal; given high benzo requirement and history of 
seizures, he was admitted to the ICU and required intubation for 
significant agitation; he was started on phenobarbital protocol 
for withdrawal, and subsequently also required haldol and 
dexmedetomidine upon extubation.  He declined resources for 
quitting.  He completed 5 days of the phenobarb protocol before 
being discharged home. 

# Fever - course was notable for self-resolving fever without 
focal findings; thought to represent autonomic instability in 
setting of alcohol withdrawal; fever resolved without 
intervention

# Hypomagnesemia / Hypokalemia - in setting of chronic alcohol 
use, he required frequent electrolyte repletion during this 
admission 

# Knee Pain - during admission he noted R knee pain; exam had no 
evidence of serious fracture, acute damage or infection; suspect 
benign musculoskeletal pain after fall several weeks ago; 
recommended supportive care and outpatient ___ 
 
# Depression - continued home amitriptyline, duloxetine, 
mirtazapine

# Hypertension - continued home lisinopril, Hctz 

# Eloping on Day of Discharge - While discharge paperwork was 
being prepared, patient eloped before it could be completed and 
presented to him; he had venous access removed prior to this.  
Team attempted to reach patient at telephone number he provided 
(___) and left message with information on his PCP 
___ letter was sent to his address as well 
encouraging this ___ as well. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO QAM 
2. Duloxetine 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Mirtazapine 15 mg PO QHS 
6. Thiamine 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 

 
Discharge Medications:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO QAM 
2. Duloxetine 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Mirtazapine 15 mg PO QHS 
6. Thiamine 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal
 
Discharge Condition:
Independent, ambulatory
 
Discharge Instructions:
Not completed prior to patient eloping 
 
Followup Instructions:
___